* SpiceNetList
* 
* Exported from untitled.sch at 9/17/2019 2:52 PM
* 
* EAGLE Version 9.3.0 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.000000
* --------- .OPTIONS ---------
* --------- .PARAMS ---------

* --------- devices ---------
C_C1 V_OUT N_1 680nF 
V_V1 N_3 0 DC 0V AC 1 SIN(0 1 1 0 0) 
R_R4 N_6 N_3 9k 
R_R6 0 N_6 1k 
X_X2 N_6 N_5 V+ V- N_5 OPAMP 
R_R5 N_4 V_IN 12k 
X_X1 V_IN N_1 V+ V- V_OUT OPAMP 
C_C2 0 N_4 6.8nF 
R_R1 V_IN N_5 5.1k 
R_R3 0 N_1 4.7k 
R_R2 N_1 V_OUT 2.2k 

* --------- models ---------

* (model found in library)

* Autodesk EAGLE
* BASIC OP AMP MODEL
* Device Pins In+ In- vdd vss Vout
* vdd vss unused in this model!!
.SUBCKT opamp 1 2 vdd vss vout
*
* INPUT
RIN   1   2   1e9
*
*  AMPLIFIER STAGE: GAIN, POLE, SLEW
*   Aol=10000, fu=1000000 Hz
G1   0    10  VALUE = { 1e-2 * V(1,2)  }
R1   10   0   1e6
C1   10   0   1.59e-9
*
* 2ND POLE 
G2   0 20   10 0  1e-6
R2   20       0     1e6
C2   20       0     3.3e-14
*
* 3RD POLE 
G3   0 30   20 0 1e-6
R3   30       0     1e6
C3   30       0     3.3e-14
*
* OUTPUT STAGE
EBUFFER 80 0  30  0    1
ROUT 80 vout 100
.ENDS opamp


* --------- simulation ---------
.print DC V(V_OUT) V(V_IN) I(V_V1)
.print AC V(V_OUT) V(V_IN) I(V_V1)
.print TRAN V(V_OUT) V(V_IN) I(V_V1)
.END










